US07906528B2
To a solution of 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-3-vinyl-1H-pyrrolo[2,3-c]pyridine (400 mg, 1.0 mmol) in a THF/water mixture (3:1, 10 mL), NaIO4 (0.65 g, 3.0 mmol) and OSO4 (4% in water, 3 drops) are added and the mixture is stirred for 18 hours at room temperature. The solvent is removed under reduced pressure, and the residue is extracted with EtOAc. The combined organic extracts are washed with brine, dried (Na2SO4), and concentrated under reduced pressure. The residue is purified by chromatography on silica gel (Hexane/EtOAc, 6:1) to afford 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine-3-carbaldehyde as a colorless oil.

reactant | 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-3-vinyl-1H-pyrrolo[2,3-c]pyridine | 1.0 mmol, 400 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2C=C)C2=CC=C(C=C2)C(C)C | C28H30N2
reactant | THF water | 10 mL | C1CCOC1.O
product | 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine-3-carbaldehyde | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2C=O)C2=CC=C(C=C2)C(C)C | C27H28N2O
